US04536508
5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-one
A solution of 3-[3-(1-piperidinylmethyl)phenoxy]propanamine (1.76 g) in tetrahydrofuran (70 ml) was treated with dimethyl N-methoxycarbonylcarbonimidodithioate (1.27 g) at room temperature, and the mixture was stirred for 6 h. Hydrazine hydrate (2 g) was added, and the mixture was heated under reflux for 18 h. The solution was evaporated, and the residue was chromatographed to give the title compound (250 mg) as a colourless oil. tlc. System B, Rf 0.5. Nmr (D2O) 2.5,t, (1H); 2.8-3.0,m,(3H); 5.72,s,(1H); 5.8,t, (3H); 6.5,m, (2H); 6.65,t, (2H); 7.05,br.t, (2H); 7.7-8.6,m, (8H).

reactant | 3-[3-(1-piperidinylmethyl)phenoxy]propanamine | 1.76 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | dimethyl N-methoxycarbonylcarbonimidodithioate | 1.27 g | COC(=O)N=C(SC)SC | C5H9NO2S2
reactant | Hydrazine hydrate | 2 g | O.NN
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-one | 250 mg | N1(CCCCC1)CC=1C=C(OCCCNC2=NC(NN2)=O)C=CC1 | C17H25N5O2
